US09233104B2
To a solution of 3-(3-fluoro-5-((4-methylpiperazin-1-yl)methyl)phenyl)-5-nitropyridin-4-amine (CIV) (265 mg, 0.77 mmol) in MeOH (5 mL) was added 10% Pd/C (40 mg, 15% by wt). The solution was purged with hydrogen and stirred for 4 h at room temperature under hydrogen. The suspension was filtered through Celite and concentrated under vacuum to produce 5-(3-fluoro-5-((4-methylpiperazin-1-yl)methyl)phenyl)pyridine-3,4-diamine (CV) as a tan solid (210 mg, 0.66 mmol, 86% yield). 1H NMR (DMSO-d6, 500 MHz) δ ppm 2.14 (s, 3H), 2.32-2.40 (m, 8H), 3.51 (s, 2H), 4.71 (brs, 2H), 5.05 (brs, 2H), 7.06-7.10 (m, 2H), 7.14 (s, 1H), 7.43 (s, 1H), 7.67 (s, 1H); ESIMS found C17H22FN5 m/z 316 (M+H).

reactant | 3-(3-fluoro-5-((4-methylpiperazin-1-yl)methyl)phenyl)-5-nitropyridin-4-amine | 0.77 mmol, 265 mg | FC=1C=C(C=C(C1)CN1CCN(CC1)C)C=1C=NC=C(C1N)[N+](=O)[O-] | C17H20FN5O2
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 5-(3-fluoro-5-((4-methylpiperazin-1-yl)methyl)phenyl)pyridine-3,4-diamine | 0.66 mmol, 210 mg, 86% yield | FC=1C=C(C=C(C1)CN1CCN(CC1)C)C=1C(=C(C=NC1)N)N | C17H22FN5
